US07863332B2
b. Synthesis of 3-[3′-(3-heptyl-1-methylureido)-2-pentyloxybiphenyl-4-yl]propanoic acid
In a manner similar to that of Example (19g), by reaction of 400 mg (10 mmol, 14 eq) of sodium hydroxide and methyl 3-[3′-(3-heptyl-1-methylureido)-2-pentyloxybiphenyl-4-yl]propanoate, obtained in the preceding step, in 10 ml of a tetrahydrofuran/methanol mixture (8/2), and after crystallization from pentane, 260 mg of 3-[3′-(3-heptyl-1-methylureido)-2-pentyloxybiphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=69° C.). Yield=77% over the two steps.

reactant | sodium hydroxide | 10 mmol, 400 mg, 14 eq | [OH-].[Na+]
reactant | methyl 3-[3′-(3-heptyl-1-methylureido)-2-pentyloxybiphenyl-4-yl]propanoate | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)OC)OCCCCC)=O | C30H44N2O4
solvent | tetrahydrofuran methanol | 10 ml | O1CCCC1.CO
product | 3-[3′-(3-heptyl-1-methylureido)-2-pentyloxybiphenyl-4-yl]propanoic acid | Yield=77% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)O)OCCCCC)=O | C29H42N2O4
